* D:\LTSpice\pedal-circuits\triggerSchmittFuzz-trialAndError.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 0 N001 N004 0 N002 LT1001 ;§pnba In+)In-)V+)V-)OUT
VCC N004 0 9V
V1 N005 0 SINE(0 0.5V 80Hz)
R1 N001 N003 10k
R3 0 N002 1
Q1 N003 N005 N006 0 2N2222
R4 N006 0 10
R6 N004 N003 1k
X§U2 0 N009 N012 0 N010 LT1001 ;§pnba In+)In-)V+)V-)OUT
VCC1 N012 0 9V
V2 N016 0 SINE(0 1.2V 80Hz)
R7 N010 N009 100k
D3 N002 N001 1N914
D4 N001 N002 1N914
R2 N002 N001 1k
R10 N003 N005 100
R9 N004 N003 1Meg
R11 N003 0 200k
X§U3 0 N007 N011 0 N008 LT1001 ;§pnba In+)In-)V+)V-)OUT
VCC2 N011 0 9V
R12 N007 N014 1K
R13 0 N008 1
D5 N008 N007 1N914
D6 N007 N008 1N914
R14 N008 N007 10k
V4 N013 0 SINE(0 1.2V 80Hz)
X§U4 N013 N015 N011 0 N014 LT1001 ;§pnba In+)In-)V+)V-)OUT
R15 N014 N015 900
R16 N015 0 100
D1 N010 N009 1N914
D2 N009 N010 1N914
R8 0 N017 10k
C2 N017 N010 100n
C1 0 N009 12n
R5 N009 N016 10k
.model D D
.lib C:\Users\adeli\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\adeli\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0.5s
* Library below included based on ModelFile attribute of instance X§U1, X§U2, X§U3, X§U4 (C:\Users\adeli\AppData\Local\LTspice\lib\sym\OpAmps\OP07.asy)
.lib LTC.lib
.backanno
.end
